US06271410B1
Cyanoacetic acid (85.5 g; 1.0 mol), 2-ethylhexanol (172 g; 1.32 mol) and methanesulfonic acid (0.47 g; 0.005 mol) were introduced into a 500 ml flask under a nitrogen atmosphere. The reaction vessel was equipped with a distillation column that is provided with means for recycling the alkanol distillate to the flask. The mixture was heated slowly to a maximum of 130° C. while gradually reducing the pressure to about 15 mm of Hg. Water was continuously removed from the distillates (bp 68-80° C./100 mm Hg) and the organic layer (2-ethylhexanol) was returned to the flask until the reaction was complete. After distilling off the unreacted 2-ethylhexanol, the ethylhexyl cyanoacetate (bp 146° C./5 mm Hg) was isolated as a clear liquid. The average yield was 194 g (98.1% of theoretical) having a purity of 99.5% (GC assay).

reactant | Cyanoacetic acid | 1.0 mol, 85.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | 2-ethylhexanol | 1.32 mol, 172 g | C(C)C(CO)CCCC | C8H18O
reactant | methanesulfonic acid | 0.005 mol, 0.47 g | CS(=O)(=O)O | CH4O3S
product | ethylhexyl cyanoacetate | C(#N)CC(=O)OC(CCCCC)CC | C11H19NO2
